US07442709B2
N-[4-(benzyloxy)phenyl]-5-bromo-3-nitropyridin-2-amine (28.5 g, 0.071 mmol) and tin (II) chloride dihydrate (160.67 g, 0.712 mmol) were dissolved in 500 mL ethanol under N2 and the reaction mixture heated at reflux (70° C.) for 30 min. Sodium bicarbonate was then added to the cooled mixture until the pH was greater than 9.5, and then the mixture was filtered through celite which was washed with methanol. The combined organic phases were concentrated in vacuo before being re-constituted in CH2Cl2, drying over Na2SO4, and concentration in vacuo to yield N2-[4-(benzyloxy)phenyl]-5-bromopyridine-2,3-diamine. 1H NMR (400 MHz, CDCl3) δ 3.44 (bs, 2H), 5.07 (s, 2H), 6.02 (bs, 1H), 6.97 (dt, 2H, J=5.6, 3.6 Hz), 7.12 (d, 1H, J=2.0 Hz), 7.32 (dt, 2H, J=4.8, 0.4 Hz), 7.34-7.48 (m, 5H), 7.84 (d, 1H, J=2 Hz); MS (ES+): m/z 371[MH+], 372 (35) [MH2+]

reactant | N-[4-(benzyloxy)phenyl]-5-bromo-3-nitropyridin-2-amine | 0.071 mmol, 28.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=C(C=C1[N+](=O)[O-])Br | C18H14BrN3O3
reactant | tin (II) chloride dihydrate | 0.712 mmol, 160.67 g | O.O.[Sn](Cl)Cl
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | N2-[4-(benzyloxy)phenyl]-5-bromopyridine-2,3-diamine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=C(C=C1N)Br | C18H16BrN3O
